US07037935B2
In an analogous manner to that described in Example 28b), the alkylation of the (R)-1-(4-hydroxy-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester [Example 28a)] with 2,4,6-trifluorobenzylalcohol yields the (R)-5-oxo-1-[4-(2,4,6-trifluoro-benzyloxy)-phenyl]-pyrrolidine-3-carboxylic acid methyl ester as a white solid. MS: m/e=380 (M+H)+.

reactant | (R)-1-(4-hydroxy-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)[C@H]1CN(C(C1)=O)C1=CC=C(C=C1)O | C12H13NO4
reactant | 2,4,6-trifluorobenzylalcohol | FC1=C(CO)C(=CC(=C1)F)F | C7H5F3O
product | (R)-5-oxo-1-[4-(2,4,6-trifluoro-benzyloxy)-phenyl]-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)[C@H]1CN(C(C1)=O)C1=CC=C(C=C1)OCC1=C(C=C(C=C1F)F)F | C19H16F3NO4
